US07728030B2
tert-Butyl[(1R,2S)-1-[1-(4-fluorophenyl)indazol-5-yl]oxy-1-(3-methoxyphenyl)propan-2-yl]carbamoylformate
Prepared as described in Example 1 using (1R,2S)-1-[1-(4-fluorophenyl)-indazol-5-yl]oxy-1-(3-methoxyphenyl)-propan-2-amine (50 mg, 0.13 mmol) and tert-butyl 2-chloro-2-oxoacetate (0.064 mL, 0.40 mmol) [prepared according to G. Bucher at al, Eur J Org Chem, 545-552 (2001); b.p. 54-55° C., 21 mmHg]. Yield 44 mg (66%).

reactant | (1R,2S)-1-[1-(4-fluorophenyl)-indazol-5-yl]oxy-1-(3-methoxyphenyl)-propan-2-amine | 0.13 mmol, 50 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)N)C1=CC(=CC=C1)OC | C23H22FN3O2
reactant | tert-butyl 2-chloro-2-oxoacetate | 0.40 mmol, 0.064 mL | ClC(C(=O)OC(C)(C)C)=O | C6H9ClO3
product | tert-Butyl[(1R,2S)-1-[1-(4-fluorophenyl)indazol-5-yl]oxy-1-(3-methoxyphenyl)propan-2-yl]carbamoylformate | C(C)(C)(C)OC(=O)C(N[C@H]([C@@H](C1=CC(=CC=C1)OC)OC=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)C)=O | C29H30FN3O5
